US08404676B2
Intermediate 7: 4-[Cyclohexyl(methyl)amino]-3-nitrobenzoic acid
A mixture of ethyl 4-fluoro-3-nitrobenzoate (Chontech 01072; 500 mg; 2.35 mmol; 1 eq.) and N-methylcyclohexylamine (Aldrich 10,332-2; 796.59 mg; 7.04 mmol; 3 eq.) in DMF (2 mL) was stirred at 50° C. for 3 hours. The reaction was then allowed to return to room temperature and diluted with water. Extraction with ethyl acetate, drying over sodium sulfate and concentration in vacuo gave a yellow oil. The oil was taken up in THF (15 mL) and lithium hydroxide (280.86 mg; 11.73 mmol; 5 eq.) was added followed by water (15 mL). The reaction mixture was stirred at room temperature for 5 hours. After evaporation of the solvent, the solution was diluted with water and washed with Et2O. The aqueous layer was acidified to pH 4 with AcOH, extracted with Et2O, dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a yellow solid.

reactant | ethyl 4-fluoro-3-nitrobenzoate | 2.35 mmol, 500 mg, 1 eq. | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | N-methylcyclohexylamine | 7.04 mmol, 796.59 mg, 3 eq. | CNC1CCCCC1 | C7H15N
reactant | lithium hydroxide | 11.73 mmol, 280.86 mg, 5 eq. | [OH-].[Li+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 4-[Cyclohexyl(methyl)amino]-3-nitrobenzoic acid | C1(CCCCC1)N(C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-])C | C14H18N2O4
